US06787536B2
4-[4-(4-Furan-2-ylphenyl)piperazine-1-sulfonylmethyl]-tetrahydropyran-4-carboxylic acid-N-hydroxyamide
Prepared according to the method for the preparation 2-[4-(4-furan-2-ylphenyl)-piperazine-1-sulfonylmethyl]-3-methylbutyric acid, from 4-[4-(4-bromophenyl)piperazine-1-sulfonylmethyl]tetrahydropyran-4-carboxylic acid hydroxyamide (0.249 g) and furan-2-boronic acid (0.066 g), to give the title compound as a cream solid (0.034 g, 14%).

reactant | 2-[4-(4-furan-2-ylphenyl)-piperazine-1-sulfonylmethyl]-3-methylbutyric acid | O1C(=CC=C1)C1=CC=C(C=C1)N1CCN(CC1)S(=O)(=O)CC(C(=O)O)C(C)C | C20H26N2O5S
reactant | 4-[4-(4-bromophenyl)piperazine-1-sulfonylmethyl]tetrahydropyran-4-carboxylic acid hydroxyamide | 0.249 g | ONC(=O)C1(CCOCC1)CS(=O)(=O)N1CCN(CC1)C1=CC=C(C=C1)Br | C17H24BrN3O5S
reactant | furan-2-boronic acid | 0.066 g | O1C(=CC=C1)B(O)O | C4H5BO3
product | 4-[4-(4-Furan-2-ylphenyl)piperazine-1-sulfonylmethyl]-tetrahydropyran-4-carboxylic acid-N-hydroxyamide | 0.034 g, 14% | ONC(=O)C1(CCOCC1)CS(=O)(=O)N1CCN(CC1)C1=CC=C(C=C1)C=1OC=CC1 | C21H27N3O6S
